US08445509B2
Production of 3-(4-fluorophenyl)-4-methyl-5,6-dihydropyridin-2(1H)-one
To a solution of 2-(4-fluorophenyl)-N-(3-oxobutyl)acetamide (1.95 g, 8.7 mmol) in ethanol (120 mL) was added 20 wt % sodium ethoxide/ethanol solution (6.54 g, 19 mmol), and the mixture was stirred at 80° C. for 8 hr. The solvent was evaporated under reduced pressure, ethyl acetate/tetrahydrofuran and 1N aqueous hydrochloric acid solution were added to the residue, and the aqueous layer was extracted with ethyl acetate/tetrahydrofuran (×3). The combined organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, and the residue was washed with ethyl acetate/hexane (1/10) to give the title compound (1.36 g, 76%) as a brown solid.

reactant | 2-(4-fluorophenyl)-N-(3-oxobutyl)acetamide | 8.7 mmol, 1.95 g | FC1=CC=C(C=C1)CC(=O)NCCC(C)=O | C12H14FNO2
reactant | sodium ethoxide ethanol | 19 mmol, 6.54 g | [O-]CC.[Na+].C(C)O
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 3-(4-fluorophenyl)-4-methyl-5,6-dihydropyridin-2(1H)-one | 1.36 g, 76% | FC1=CC=C(C=C1)C=1C(NCCC1C)=O | C12H12FNO
